US07714000B2
(c) tert.-butyl(R)-4-(3-benzyloxycarbonylamino-4-hydroxy-butyrylamino)-2-methyl-benzoate
This is prepared analogously to Example 93d from tert.-butyl 4-amino-benzoate and benzyl(R)-(5-oxo-tetrahydrofuran-3-yl)-carbamate by reaction with trimethylaluminium in dichloromethane.

reactant | tert.-butyl 4-amino-benzoate | NC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C11H15NO2
reactant | benzyl(R)-(5-oxo-tetrahydrofuran-3-yl)-carbamate | O=C1C[C@H](CO1)NC(OCC1=CC=CC=C1)=O | C12H13NO4
reactant | trimethylaluminium | C[Al](C)C
solvent | dichloromethane | ClCCl | CH2Cl2
product | tert.-butyl(R)-4-(3-benzyloxycarbonylamino-4-hydroxy-butyrylamino)-2-methyl-benzoate | C(C1=CC=CC=C1)OC(=O)N[C@H](CC(=O)NC1=CC(=C(C(=O)OC(C)(C)C)C=C1)C)CO | C24H30N2O6
